US08114878B2
3.1.1 2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol
20.45 g 1-(4-chloro-phenyl)-piperazine are placed in 5.95 ml (104 mmol) glacial acetic acid and heated to 180° C. 8.01 g 2-methylsulphanyl-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol are added, the non-stirrable reaction mixture is heated for 2.5 hours to 180° C. After cooling, water is added, the precipitate is suction filtered and dried in the air. The substance is treated with ethanol under ultrasound, suction filtered and dried. 12.95 g of the product are obtained as a powder.

reactant | 1-(4-chloro-phenyl)-piperazine | 20.45 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | acetic acid | 104 mmol, 5.95 ml | C(C)(=O)O | C2H4O2
reactant | 2-methylsulphanyl-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol | 8.01 g | CSC=1N=C(C2=C(N1)CCS2)O | C7H8N2OS2
solvent | water | O | H2O
product | 2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol | 12.95 g | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2)O | C16H17ClN4OS
